US06562811B1
To a stirred solution of tert-butyl 4-(6-(aminocarbonyl)-2-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-4-yl)-1-piperidinecarboxylate (0.120 g, 0.187 mmol) in 1,4-dioxane (3 mL) was added 4N HCl in dioxane (1 mL). The mixture was stirred at room temperature for 2 hrs. The resulted precipitate was collected by filtration, washed with acetonitrile, and dried under reduced pressure to give 7-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-2-oxo-5-(4-piperidinyl)-1,2,3,4-tetrahydro-1,8-naphthyridine-3-carboxamide hydrochloride. (0.080 g, yield 90%)

reactant | tert-butyl 4-(6-(aminocarbonyl)-2-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-4-yl)-1-piperidinecarboxylate | 0.187 mmol, 0.120 g | NC(=O)C1CC=2C(=CC(=NC2NC1=O)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OCC1CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C37H44N4O7
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 7-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-2-oxo-5-(4-piperidinyl)-1,2,3,4-tetrahydro-1,8-naphthyridine-3-carboxamide hydrochloride | yield 90% | Cl.C1(CC1)COC1=C(C(=CC=C1)O)C1=CC(=C2CC(C(NC2=N1)=O)C(=O)N)C1CCNCC1 | InChI=1S/C24H28N4O4.ClH/c25-22(30)17-10-16-15(14-6-8-26-9-7-14)11-18(27-23(16)28-24(17)31)21-19(29)2-1-3-20(21)32-12-13-4-5-13;/h1-3,11,13-14,17,26,29H,4-10,12H2,(H2,25,30)(H,27,28,31);1H
